US07700625B2
76B. Synthesis of (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-[5-(4-methyl-piperazin-1-yl)-1,3-dihydro-isoindol-2-yl]-methanone
To a mixture of (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-(5-bromo-1,3-dihydro-isoindol-2-yl)-methanone (8.30 g, 15.0 mmol), 2-(di-t-butylphosphino)biphenyl (223 mg, 0.75 mmol), tris(dibenzylideneacetone)dipalladium (344 mg, 0.38 mmol), sodium tert-butoxide (2.17 g, 22.5 mmol) and 1-methyl-piperazine (2.16 mL, 19.5 mmol) under a N2 atmosphere was added anhydrous toluene (100 mL). The mixture was taken to 80° C. and heated at this temperature for 16 h. The mixture was allowed to cool to ambient temperature, diluted with ether (150 mL) and filtered through a plug of Celite, washing with ether. The filtrate was reduced in vacuo and the residue purified by column chromatography using an eluant of CH2Cl2-DMAW120 (1:0-0:1) to give the title compound (9.39 g) as a red gum.

reactant | (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-(5-bromo-1,3-dihydro-isoindol-2-yl)-methanone | 15.0 mmol, 8.30 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(=C)C)C(=O)N1CC2=CC=C(C=C2C1)Br | C32H28BrNO3
reactant | sodium tert-butoxide | 22.5 mmol, 2.17 g | CC(C)([O-])C.[Na+]
reactant | 1-methyl-piperazine | 19.5 mmol, 2.16 mL | CN1CCNCC1 | C5H12N2
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | ether | 150 mL | CCOCC | C4H10O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.38 mmol, 344 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2-(di-t-butylphosphino)biphenyl | 0.75 mmol, 223 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
product | (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-[5-(4-methyl-piperazin-1-yl)-1,3-dihydro-isoindol-2-yl]-methanone | 9.39 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(=C)C)C(=O)N1CC2=CC=C(C=C2C1)N1CCN(CC1)C | C37H39N3O3
